US08247515B2
Synthesis of 2-Propenoic acid-3-(1,1,3,3-tetramethyldisiloxanyl)propyl ester (SiH—MA):
Into a 1000 mL round bottom flask, equipped with a Teflon-coated stir bar and located in a water bath at room temperature, is added tetramethyidisiloxane (134 grams, 1 mole) and allyl methacrylate (126 grams, 1 mole). A reaction is initiated by the addition of Karstedt's catalyst (0.5 mL) and the charge is stirred for 3 hours. At this point PPh3 (10 mL) is added and the charge is vacuum distilled (0.1 millibar) at 50° C. The product, 112 grams of colorless liquid, is rectified on a spinning band column (75 plates, 0.3 mbar) to yield 41 grams (16%) of SiH-MA. The boiling point is determined to be 62° C.

reactant | tetramethyidisiloxane | 1 mole, 134 grams | C[SiH2]O[Si](C)(C)C | C4H14OSi2
reactant | allyl methacrylate | 1 mole, 126 grams | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | PPh3 | 10 mL | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 2-Propenoic acid-3-(1,1,3,3-tetramethyldisiloxanyl)propyl ester | C[Si](O[SiH](C)C)(C)CCCOC(C=C)=O | C10H22O3Si2
